US05006157
Preparation of 4-methyl-3-phenyl-1-(3,4,5-trichloro-α,α-dimethylbenzyl)-3-pyrrolin-2-one (Compound No. 113)
40 g (96.9 mmol) of N-(2-oxopropyl)-N-(3,4,5-trichloro-α,α-dimethylbenzyl)phenylacetamide (having a melting point of from 149 to 153° C.) prepared in accordance with the method of Reference Example 8, was dissolved in 500 ml of ethanol under heating, and 3.2 g (48.5 mmol) of potassium hydroxide powder was added thereto. The mixture was refluxed under heating for 10 minutes. The reaction solution was cooled, and then precipitated crystals were collected by filtration, washed with water and then air-dried. The filtrate was distilled under reduced pressure to remove the solvent, and then water was added thereto and extracted with ethyl acetate. The extract was washed with water and then dried over anhydrous magensium sulfate. The solvent was distilled off under reduced pressure to obtain crude crystals. This crude crystals and the crystals previously collected by filtration were put together and recrystallized from ethyl acetate to obtain 33.7 g (yield: 88.1%) of the desired compound as colorless crystals.

reactant | N-(2-oxopropyl)-N-(3,4,5-trichloro-α,α-dimethylbenzyl)phenylacetamide | 96.9 mmol, 40 g | O=C(CN(C(CC1=CC=CC=C1)=O)C(C1=CC(=C(C(=C1)Cl)Cl)Cl)(C)C)C | C20H20Cl3NO2
reactant | potassium hydroxide | 48.5 mmol, 3.2 g | [OH-].[K+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-methyl-3-phenyl-1-(3,4,5-trichloro-α,α-dimethylbenzyl)-3-pyrrolin-2-one | 33.7 g, yield: 88.1% | CC1=C(C(N(C1)C(C1=CC(=C(C(=C1)Cl)Cl)Cl)(C)C)=O)C1=CC=CC=C1 | C20H18Cl3NO
